US04489094
4-[[2,2-Bis(p-chlorophenyl)ethyl]amino]benzoic acid
A mixture of 10.0 g. of 4-[[2,2-bis(p-chlorophenyl)ethyl]amino]benzoic acid, ethyl ester, 5.0 g. of potassium hydroxide, and 100 ml. of 95% ethanol is stirred at 80° C. for 31/2 hours, cooled, diluted with 200 ml. of water, and extracted with two 150 ml. portions of ether. The combined ether extracts are washed with 100 ml. of water. The water wash is combined with the original aqueous layer and adjusted to pH 6.5 with 37% hydrochloric acid. The resulting precipitate is collected and dried in vacuo, giving 9.0 g. of the desired product as a white solid.

reactant | 4-[[2,2-bis(p-chlorophenyl)ethyl]amino]benzoic acid, ethyl ester | ClC1=CC=C(C=C1)C(CNC1=CC=C(C(=O)OCC)C=C1)C1=CC=C(C=C1)Cl | C23H21Cl2NO2
reactant | potassium hydroxide | [OH-].[K+]
solvent | ethanol | C(C)O | C2H6O
product | 4-[[2,2-Bis(p-chlorophenyl)ethyl]amino]benzoic acid | ClC1=CC=C(C=C1)C(CNC1=CC=C(C(=O)O)C=C1)C1=CC=C(C=C1)Cl | C21H17Cl2NO2
